* ECE334 Lab 4 L1/L2 -- D flip-flop setup time and clock-to-Q delay
*
* Setup time is found by sweeping the data edge toward the clock edge until the
* flip-flop stops capturing. This deck places ONE data transition before ONE
* rising clock edge, separated by DSKEW, and reports the captured value.
*
*   DSKEW large  -> data is stable well before the edge, capture succeeds
*   DSKEW small  -> data arrives too late, capture fails
*
* Sweep DSKEW and find the smallest value that still captures. That is t_setup.
*
* t_PCQ is the delay from the clock's 50 % point to Q's 50 % point, measured on
* a cycle that does capture.
*
*   ngspice -b dff_char.spice
* or, to sweep:
*   for d in 2000 1500 1000 700 500 400 300 200 150 100; do
*     sed "s/^.param DSKEW=.*/.param DSKEW=${d}p/" dff_char.spice > /tmp/s.spice
*     ngspice -b /tmp/s.spice | grep -E "qfinal|tpcq"
*   done

.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include include/dff.spice

.param DSKEW=2000p
.param TCLK=40n
.param TEDGE=20n          $ the rising clock edge under test

Vdd vdd 0 1.8
Vss vss 0 0
Vsetq   setq   0 0
Vresetq resetq 0 0

* One rising clock edge at TEDGE.
Vcl cl 0 PULSE(0 1.8 'TEDGE' 0.5n 0.5n 10n 'TCLK')

* Data goes 0 -> 1 exactly DSKEW before that clock edge.
Vd data 0 PULSE(0 1.8 'TEDGE-DSKEW' 0.5n 0.5n 30n 'TCLK')

Xdff data cl setq resetq q q_b vdd vss dff

* Start from a known state so the first capture is meaningful.
.ic v(q)=0

.tran 5p 45n

.control
run
set filetype=ascii
write dff_char.raw v(cl) v(data) v(q)
* Q well after the edge: 1.8 means the new data was captured, 0 means it was not.
meas tran qfinal FIND v(q) AT=38n
meas tran tpcq TRIG v(cl) VAL=0.9 RISE=1 TARG v(q) VAL=0.9 RISE=1
.endc
.end
