** sch_path: /tmp/l4/wrap.sch
**.subckt wrap
x1 data cl setq resetq q q_b vdd vss dff
**.ends

* expanding   symbol:  dff.sym # of pins=8
** sym_path: /foss/designs/common/xschem/dff.sym
** sch_path: /foss/designs/common/xschem/dff.sch
.subckt dff data cl setq resetq q q_b vdd vss
*.ipin data
*.ipin cl
*.ipin setq
*.ipin resetq
*.opin q
*.opin q_b
*.iopin vdd
*.iopin vss
xclk cl cl_b vdd vss inv
xtg1 data m1 cl_b vdd vss tgate
xna m1 setq m2 vdd vss nor2
xnb m2 resetq m3 vdd vss nor2
xtg2 m3 m1 cl vdd vss tgate
xtg3 m3 s1 cl vdd vss tgate
xnc s1 setq q_b vdd vss nor2
xnd q_b resetq q vdd vss nor2
xtg4 q s1 cl_b vdd vss tgate
.ends


* expanding   symbol:  inv.sym # of pins=4
** sym_path: /foss/designs/common/xschem/inv.sym
** sch_path: /foss/designs/common/xschem/inv.sch
.subckt inv in out vdd vss
*.ipin in
*.opin out
*.iopin vdd
*.iopin vss
XM2 out in vdd vdd sky130_fd_pr__pfet_01v8 L=0.5 W=3 nf=1 ad=0.87 as=0.87 pd=6.58 ps=6.58 nrd=0.0966666666666667
+ nrs=0.0966666666666667 sa=0 sb=0 sd=0 mult=1
XM1 out in vss vss sky130_fd_pr__nfet_01v8 L=0.5 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
.ends


* expanding   symbol:  tgate.sym # of pins=5
** sym_path: /foss/designs/common/xschem/tgate.sym
** sch_path: /foss/designs/common/xschem/tgate.sch
.subckt tgate in out ctrl vdd vss
*.ipin in
*.opin out
*.ipin ctrl
*.iopin vdd
*.iopin vss
XMP in ctrl_b out vdd sky130_fd_pr__pfet_01v8 L=0.5 W=9 nf=1 ad=2.61 as=2.61 pd=18.58 ps=18.58 nrd=0.0322222222222222
+ nrs=0.0322222222222222 sa=0 sb=0 sd=0 mult=1
XMN in ctrl out vss sky130_fd_pr__nfet_01v8 L=0.5 W=3 nf=1 ad=0.87 as=0.87 pd=6.58 ps=6.58 nrd=0.0966666666666667
+ nrs=0.0966666666666667 sa=0 sb=0 sd=0 mult=1
xinv ctrl ctrl_b vdd vss inv
.ends


* expanding   symbol:  nor2.sym # of pins=5
** sym_path: /foss/designs/common/xschem/nor2.sym
** sch_path: /foss/designs/common/xschem/nor2.sch
.subckt nor2 a b out vdd vss
*.ipin a
*.ipin b
*.opin out
*.iopin vdd
*.iopin vss
XMPA net1 a vdd vdd sky130_fd_pr__pfet_01v8 L=0.5 W=18 nf=1 ad=5.22 as=5.22 pd=36.58 ps=36.58 nrd=0.0161111111111111
+ nrs=0.0161111111111111 sa=0 sb=0 sd=0 mult=1
XMPB out b net1 vdd sky130_fd_pr__pfet_01v8 L=0.5 W=18 nf=1 ad=5.22 as=5.22 pd=36.58 ps=36.58 nrd=0.0161111111111111
+ nrs=0.0161111111111111 sa=0 sb=0 sd=0 mult=1
XMNA out a vss vss sky130_fd_pr__nfet_01v8 L=0.5 W=3 nf=1 ad=0.87 as=0.87 pd=6.58 ps=6.58 nrd=0.0966666666666667
+ nrs=0.0966666666666667 sa=0 sb=0 sd=0 mult=1
XMNB out b vss vss sky130_fd_pr__nfet_01v8 L=0.5 W=3 nf=1 ad=0.87 as=0.87 pd=6.58 ps=6.58 nrd=0.0966666666666667
+ nrs=0.0966666666666667 sa=0 sb=0 sd=0 mult=1
.ends

.end
